US06291507B1
Benzyl 4-tert-butoxycarbonyl-1-(3,4-dichlorobenzyl)cyclopenta[b]pyrrole-2-carboxylate (Compound No. 3 in Table I)
Benzyl 5-diazo-1-(3,4-dichlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate (0.3 g) and t-butanol (1 mL) were heated at 180° C. in collidine (10 mL) for 30 minutes, cooled to room temperature, and poured into diethyl ether. The organic layer was washed with 2M HCl (100 mL), dried (MgSO4), and concentrated in vacuo to afford the title compound as an orange oil (0.32 g, 97%), NMR d(CDCl3) 1.45 (9H, s), 2.45-2.80 (4H, m), 3.78 (1H, dd), 5.20 (2H, d), 5.40 (2H, d), 6.80 (1H, dd), 6.95 (1H, s), 7.10 (1H, s), 7.30 (6H, m); M/z (+) 502, 500 (M+).

reactant | Benzyl 5-diazo-1-(3,4-dichlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate | 0.3 g | [N+](=[N-])=C1C(C=2C=C(N(C2CC1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC1=CC=CC=C1)=O | C23H17Cl2N3O3
reactant | t-butanol | 1 mL | C(C)(C)(C)O | C4H10O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | collidine | 10 mL | N1=C(C=C(C=C1C)C)C | C8H11N
product | Benzyl 4-tert-butoxycarbonyl-1-(3,4-dichlorobenzyl)cyclopenta[b]pyrrole-2-carboxylate | 0.32 g, 97% | C(C)(C)(C)OC(=O)C1=CC=C2N(C(C=C21)C(=O)OCC2=CC=CC=C2)CC2=CC(=C(C=C2)Cl)Cl | C27H25Cl2NO4
